US06077866
To a tetrahydrofuran solution (30 ml) of lithium diisopropylamide which was prepared from a 1.6 M n-butyllithium hexane solution (12.5 ml) and diisopropylamine (2.1 g), a tetrahydrofuran solution (10 ml) of 4-chloro-4'-methylmercaptomethylbenzophenone (2.8 g) was added at -78° C., and the mixture was stirred for 30 minutes at the same temperature. Ethyl iodide (3.0 g) was subsequently added thereto at -78° C., and the mixture was stirred for 6 hours while restoring the mixture gradually to room temperature. After completing the reaction, the reaction mixture was washed with aqueous 5% ammonium chloride solution and aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the obtained crude product was purified by silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=4:1) to obtain 4-chloro-4'-(1-methylmercaptopropyl)benzophenone (0.3 g) as oily substance.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium hexane | 1.6 M, 12.5 ml | CCCCCC.C(CCC)[Li]
reactant | diisopropylamine | 2.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-chloro-4'-methylmercaptomethylbenzophenone | 2.8 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CSC)C=C1 | C15H13ClOS
reactant | Ethyl iodide | 3.0 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-chloro-4'-(1-methylmercaptopropyl)benzophenone | 0.3 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C(CC)SC)C=C1 | C17H17ClOS
